reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([C+:2]=[C:4]([O-:5])[C:6]([H:14])([H:15])[H:16])([H:7])([H:8])[H:9].[C:3]([H:10])([H:11])([H:12])[H:13]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[C:6]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9],6.970187044807702
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([N:6]=[C:5]=[C:2]([C:3]([H:10])([H:11])[H:12])[O:4][H:13])([H:7])([H:8])[H:9],102.61324963620399
[C:1]([O:2][C:3](=[C:4]=[C:5]([C:6]([H:12])([H:13])[H:14])[H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]#[C:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9],76.7246029437475
[N:1]([C:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])=[C:6]=[N:7][H:10])([H:8])[H:9]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],60.391691179927406
[C:1]([C:2]([C:3]([C:4]([C:5]#[N:6])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5][N:6]1[H:11])([H:7])([H:8])[H:9],95.79991956407792
[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])/[C:4](=[C:5](/[O:6][H:14])[H:15])[H:13])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[O:6])[H:15])([H:13])[H:14])([H:7])([H:8])[H:9],55.0699813524895
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4](=[O:5])[H:14])[N:7]=[C:6]([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5][C:6]([H:16])=[N:7]1)([H:8])([H:9])[H:10],83.7026276587684
[N:1](=[C:2](/[O:3][C:4]([C:6](=[C:5])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])\[H:7],11.8882174890552
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C:4]([H:11])([H:12])[C@:5]1([O:6][H:14])[H:13])[H:7]>>[H:7][H:10].[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:11])([H:12])[C@:5]1([O:6][H:14])[H:13])[H:8],93.7347065621344
[O:1]=[C:2]([N:3]([C:4]([C:5]#[C:6][H:11])([H:9])[H:10])[H:8])[H:7]>>[O:1]=[C:2]([C@@:4]([N:3]([H:8])[H:10])([C:5]#[C:6][H:11])[H:9])[H:7],85.77996677361891
[C:1]([C:3]1([O:2][H:7])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12])[H:8]>>[C:1]1([H:7])([H:8])[O:2][C:3]12[C:4]([H:9])([H:10])[O:5][C:6]2([H:11])[H:12],5.103438397821208
[C:1]([C:2]([C:3]#[C:4][H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]1([H:5])([H:7])[C:2]([H:8])([H:9])[C:3]1=[C:4]([H:6])[H:10],99.5415184760973
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]#[N:6])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]1([H:10])[C:3]([H:11])([H:12])/[C:5](=[N:6]/[H:13])[C:4]1([H:14])[H:15])([H:7])([H:8])[H:9],101.434388341351
[C:1](/[C:2](=[C:4](\[O:5][O:3][H:11])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:11])([C:4](=[O:5])[H:12])[C:6](=[O:7])[H:13])([H:8])([H:9])[H:10],41.8398224289359
[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6][O:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],27.70794426990308
[C:1]([C:2]([C@@:3]([C:4]([H:13])([H:14])[H:15])([O+:6]=[C-:5][H:16])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]1([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[O:6]1)([H:10])[H:11])([H:7])([H:8])[H:9],38.55974629399611
[C-:1]([O+:2]=[C:3]([C:5]#[C:6][H:14])[H:10])([H:7])[H:8].[C:4]([H:9])([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[C:6][H:14])[H:10])([H:7])([H:8])[H:9],29.901437348556207
[C:1]([C:2]([C:3]([O:4]/[C:5]([O:6][H:16])=[N:7]\[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],27.566321109536396
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[O:3][C@:6]([O:7][H:12])([H:16])[N:5]([H:15])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10],45.230885587093
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@@:3]([O:4][H:14])(/[C:5](=[C:6](\[O:7][H:15])[H:17])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],71.3577652040162
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([O+:4]=[C-:5][O:6][H:10])([H:8])[H:9])[H:7],76.9922283647075
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:6]=[C:5]=[C:4]([H:10])[H:11])([H:7])([H:8])[H:9],65.7379620635362
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])=[N:7][C:6]1=[O:5])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],106.37954845436629
[O:1]=[C:2]([C@@:3]1([H:9])[C:4]([H:10])([H:11])[N:5]1[C:6](=[O:7])[H:12])[H:8]>>[O:1]=[C:2]([O:7]/[C:6](=[N:5]\[C:3](=[C:4]([H:10])[H:11])[H:9])[H:12])[H:8],64.927598003418
[N:1]([C:2](=[O:3])[C:4]([C:5]#[C:6][H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1]([C:2]([O:3][C:5]#[C:6][H:11])=[C:4]([H:9])[H:10])([H:7])[H:8],91.166264500756
